US04659727
A solution of 1-benzoyl-2-ethoxy-1-(4-methylphenylsulphonyl)ethene (0.85 g) and 2-amino-5-bromopyridine (0.45 g) in dimethylacetamide (30 ml) was heated at reflux for 2 hours. It was then cooled and poured onto ice (60 g). The resulting off-white precipitate was filtered off, washed with water, dried, and recrystallised from ethyl acetate, to give 1-benzoyl-2-(5-bromopyrid-2-ylamino)-1-(4-methylphenylsulphonyl)ethene (0.4 g), m.p. 205° C.

reactant | 1-benzoyl-2-ethoxy-1-(4-methylphenylsulphonyl)ethene | 0.85 g | C(C1=CC=CC=C1)(=O)C(=COCC)S(=O)(=O)C1=CC=C(C=C1)C | C18H18O4S
reactant | 2-amino-5-bromopyridine | 0.45 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 1-benzoyl-2-(5-bromopyrid-2-ylamino)-1-(4-methylphenylsulphonyl)ethene | 0.4 g | C(C1=CC=CC=C1)(=O)C(=CNC1=NC=C(C=C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C21H17BrN2O3S
